US08053454B2
N-[5-Chloro-2-(1H-tetrazol-5-yl)phenyl]-3-(methyloxy)benzamide
The title compound was prepared essentially according to the method of Example 4, but using 5-Chloro-2-(1H-tetrazol-5-yl)aniline (1.0 mmol) and 3-methoxybenzoyl chloride to afford the desired product (29.1 mg, 9%). 1H NMR (400 MHz, d6-DMSO): δ 10.81 (s, 1H), 8.75 (s, 1H), 8.06 (s, 1H), 7.60 (m, 3H), 7.25 (s, 1H), 3.89 (s, 3H). MS (EI) for C15H12ClN5O2: 329.7 (M+H).

reactant | 5-Chloro-2-(1H-tetrazol-5-yl)aniline | 1.0 mmol | ClC=1C=CC(=C(N)C1)C1=NN=NN1 | C7H6ClN5
reactant | 3-methoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
product | N-[5-Chloro-2-(1H-tetrazol-5-yl)phenyl]-3-(methyloxy)benzamide | 29.1 mg, 9% | ClC=1C=CC(=C(C1)NC(C1=CC(=CC=C1)OC)=O)C1=NN=NN1 | C15H12ClN5O2
